US06346527B1
To a solution of ethyl 9-(4-chloro-1-oxobutylamino)-2,3-dihydro-1-benzoxepin-4-carboxylate (0.44 g) in N,N-dimethylformamide (4.4 ml) was added sodium hydride (0.17 g, 60%) at ambient temperature. The reaction mixture was stirred for 1.5 hours at the same temperature and partitioned between ethyl acetate and 1N hydrochloric acid. The organic layer was washed successively with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by medium pressure liquid chromatography (silica gel) using a mixture of ethyl acetate and n-hexane (1:4˜1:1) to give a solid of ethyl 2,3-dihydro-9-(2-oxo-1-pyrrolidinyl)-1-benzoxepin-4-carboxylate (0.21 g).

reactant | ethyl 9-(4-chloro-1-oxobutylamino)-2,3-dihydro-1-benzoxepin-4-carboxylate | 0.44 g | ClCCCC(=O)NC1=CC=CC=2C=C(CCOC21)C(=O)OCC | C17H20ClNO4
reactant | sodium hydride | 0.17 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 4.4 ml | CN(C=O)C | C3H7NO
product | ethyl 2,3-dihydro-9-(2-oxo-1-pyrrolidinyl)-1-benzoxepin-4-carboxylate | 0.21 g | O=C1N(CCC1)C1=CC=CC=2C=C(CCOC21)C(=O)OCC | C17H19NO4
